US07691900B2
1.78 g of dimethylhydroxylamine (17.687 mmol; 3 eq.; MW=97.55) were dissolved in 10 mL of CH2Cl2 that had been distilled under argon and cooled to −78° C. 8.8 mL of AlMe3, 2M in hexane, (17.687 mmol; 3 eq.; MW=72.09) were added drop by drop at −78° C. and the reaction mixture was stirred at room temperature for half an hour. The solution was then cooled down to 0° C. and 1.55 g of oxacycloheptadecan-2-one (5.895 mmol; 1 eq.; MW=254.42), dissolved in 5 mL of distilled CH2Cl2, were added drop by drop. The reaction mixture was left at room temperature under stirring. Thin layer chromatographical analysis showed that the reaction was completed after one hour and a half. The solution was added dropwise into a mixture of 60 mL of Et2O/MeOH 2:1 cooled to −78° C. and then filtered over celite. 100 mL of a saturated, aqueous solution of NaHCO3 were added and the aqueous phase was extracted with ether. The organic phases were combined, dried over magnesium sulfate and then evaporated under reduced pressure to afford 1.66 g of N-methoxy-N-methyl-16-hydroxyhexadecanamide, corresponding to 5.262 mmol and a yield of 89%. The amide obtained in this way was subsequently used without any additional purification.

reactant | dimethylhydroxylamine | 17.687 mmol, 1.78 g, 3 eq. | CN(O)C | C2H7NO
reactant | oxacycloheptadecan-2-one | 5.895 mmol, 1.55 g, 1 eq. | O1C(CCCCCCCCCCCCCCC1)=O | C16H30O2
reactant | Et2O MeOH | 60 mL | CCOCC.CO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-16-hydroxyhexadecanamide | 1.66 g, yield of 89% | CON(C(CCCCCCCCCCCCCCCO)=O)C | C18H37NO3
